### PR TITLE
feat: birthday of `Dyadic.toIGame x`

### PR DESCRIPTION
**Pull request by plp127**
Give an explicit formula for `Dyadic.toIGame x`. Note that the formula given in the `proof_wanted` is wrong.

---

- [x] depends on: #426

### CODE REVIEW

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 1]
```diff
@@ -37,12 +56,148 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
   · rintro ⟨q, rfl⟩
     exact Surreal.birthday_dyadic_lt_omega0 q
 
+/-- The birthday of a dyadic number can be computed explicitly. -/
+@[expose]
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:60]: Should this be exposed? It seems like somewhat of a convoluted definition to have public.

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 2]
```diff
@@ -37,12 +56,148 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+def Dyadic.birthday (x : Dyadic) : Nat :=
+  if h : x.den = 1 then x.num.natAbs else (x.precision.get ?isSome).toNat + x.num.natAbs / x.den + 1
+where finally
+  cases x
+  · exact h.elim rfl
+  · rfl
+
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:67]: Can we add lemmas for `Dyadic.birthday` and `NatCast`/`IntCast`, as well as the `Dyadic.birthday_of_den_ne_one` lemma?

Also, can you add an example (something like `Dyadic.birthday 3.25 = 6 := by decide`) so we can check that this function is in fact computable?

**Review by vihdzp — COMMENTED** [review]
Long proofs, will check tomorrow...

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean (hunk 1 above)
Comment (plp127) [reply CombinatorialGames/Surreal/Birthday/Dyadic.lean:60]: surely we want to be able to compute with `rfl`

Comment (vihdzp) [reply CombinatorialGames/Surreal/Birthday/Dyadic.lean:60]: Oh, neat! I didn't think that would work.

Comment (plp127) [reply CombinatorialGames/Surreal/Birthday/Dyadic.lean:60]: many arithmetic operations on `Rat` are `@[irreducible]`, so you can't compute with those, but this doesn't involve such arithmetic so it's fine

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 3]
```diff
@@ -37,12 +56,169 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+theorem Dyadic.birthday_intCast (n : Int) : Dyadic.birthday n = n.natAbs := by
+  unfold Dyadic.birthday
+  rw [dif_pos (Dyadic.den_intCast n), Dyadic.num_intCast]
+
+@[simp]
+theorem Dyadic.birthday_natCast (n : Nat) : Dyadic.birthday n = n := by
+  rw [← Int.cast_natCast, Dyadic.birthday_intCast, Int.natAbs_natCast]
+
+theorem Dyadic.birthday_of_den_ne_one {x : Dyadic} (hx : x.den ≠ 1) :
+  x.birthday = (x.precision.get (by
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean]: Can we get a lemma for the code within this `by` block?

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 4]
```diff
@@ -37,12 +56,169 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+      apply le_add_of_le_right
+      grw [Int.natAbs_add_le]
+      rw [Int.natAbs_one, Nat.succ_div, Nat.add_le_add_iff_left]
+      apply ite_le_sup
+    · rw [dif_neg hl, dif_neg hr, hccl hl, hccu hr, Nat.add_max_add_right, Nat.add_max_add_right,
+        Option.get_eq_getD, Option.get_eq_getD]
+
 -- `Dyadic.toIGame` is canonical, so it minimizes the birthday in its equivalence class.
 proof_wanted Surreal.birthday_dyadic (x : Dyadic) :
     Surreal.birthday x = IGame.birthday x
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean]:
```suggestion
    Surreal.birthday x = x.birthday
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 5]
```diff
@@ -37,12 +56,169 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+  · rfl
+
+@[simp]
+theorem Dyadic.birthday_intCast (n : Int) : Dyadic.birthday n = n.natAbs := by
+  unfold Dyadic.birthday
+  rw [dif_pos (Dyadic.den_intCast n), Dyadic.num_intCast]
+
+@[simp]
+theorem Dyadic.birthday_natCast (n : Nat) : Dyadic.birthday n = n := by
+  rw [← Int.cast_natCast, Dyadic.birthday_intCast, Int.natAbs_natCast]
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:73]: I prefer keeping unfolding to a minimum.
```suggestion
theorem Dyadic.birthday_of_den_eq_one {x : Dyadic} (hx : x.den = 1) : x.birthday = x.num.natAbs :=
  dif_pos hx

@[simp]
theorem Dyadic.birthday_intCast (n : ℤ) : Dyadic.birthday n = n.natAbs := by
  rw [Dyadic.birthday_of_den_eq_one] <;> simp

@[simp]
theorem Dyadic.birthday_natCast (n : ℕ) : Dyadic.birthday n = n := by
  rw [← Int.cast_natCast, Dyadic.birthday_intCast, Int.natAbs_natCast]
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 6]
```diff
@@ -37,12 +56,169 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+example : Dyadic.birthday 7 = 7 := rfl -- birthday 7 = 7
+example : Dyadic.birthday ((-5 : Dyadic) >>> 1) = 4 := rfl -- birthday -2.5 = 4
+example : Dyadic.birthday ((1 : Dyadic) <<< 4) = 16 := rfl -- birthday 16 = 16
+
+theorem IGame.birthday_dyadic (x : Dyadic) : IGame.birthday x = x.birthday := by
+  induction hd : x.den using Nat.strongRec generalizing x with | ind d ih
+  cases hd
+  obtain hd | hd := eq_or_ne x.den 1
+  · unfold Dyadic.birthday
+    rw [Dyadic.toIGame_of_den_eq_one hd, IGame.birthday_intCast, dif_pos hd]
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean]: Using the lemma above:
```suggestion
  · rw [Dyadic.birthday_of_den_eq_one hd, Dyadic.toIGame_of_den_eq_one hd, IGame.birthday_intCast]
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 7]
```diff
@@ -37,12 +56,169 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+  · rw [Dyadic.toIGame_of_den_ne_one hd, birthday_ofSets]
+    simp_rw [Set.image_singleton, csSup_singleton, Function.comp_apply]
+    rw [ih _ (x.den_lower_lt hd) _ rfl, ih _ (x.den_upper_lt hd) _ rfl,
+      Order.succ_eq_add_one, Order.succ_eq_add_one,
+      ← Nat.cast_add_one, ← Nat.cast_add_one, ← Nat.cast_max,
+      Nat.cast_inj, Nat.add_max_add_right]
+    unfold Dyadic.birthday
+    rw [dif_neg hd, Nat.add_one_inj]
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean]:
```suggestion
    rw [ih _ (x.den_lower_lt hd) _ rfl, ih _ (x.den_upper_lt hd) _ rfl,
      Order.succ_eq_add_one, Order.succ_eq_add_one,
      ← Nat.cast_add_one, ← Nat.cast_add_one, ← Nat.cast_max,
      Nat.cast_inj, Nat.add_max_add_right, Dyadic.birthday_of_den_ne_one hd, Nat.add_one_inj]
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 8]
```diff
@@ -37,12 +56,169 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+    have hnd := x.max_den_lower_upper hd
+    have hnd0 : (x.precision.getD 0).toNat ≠ 0 := by
+      rw [ne_eq, ← pow_right_inj₀ Nat.two_pos (by decide), pow_zero,
+        ← Dyadic.den_eq_two_pow_toNat_precision]
+      exact hd
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean]:
```suggestion
      apply_fun (2 ^ ·)
      rwa [← Dyadic.den_eq_two_pow_toNat_precision]
```

**Review by vihdzp — COMMENTED** [review]
I think you can isolate the following lemma: if `x.den ≠ 1`, then `max x.lower.birthday x.upper.birthday + 1 = x.birthday`.

This lemma should follow from the following: either `x.lower.num.natAbs / x.lower.den = x.num.natAbs / x.den`, or `x.lower.den = 1`. Same for `upper`.

Basically, I think you should split up this big proof into a bunch of other, less big proofs.

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 9]
```diff
@@ -37,12 +57,170 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+    x.birthday =
+      (x.precision.get (isSome_precision_eq_true_of_den_ne_one hx)).toNat +
+        x.num.natAbs / x.den + 1 :=
+  dif_neg hx
+
+example : Dyadic.birthday ((13 : Dyadic) >>> 2) = 6 := rfl -- birthday 3.25 = 6
+example : Dyadic.birthday ((1 : Dyadic) >>> 1) = 2 := rfl -- birthday 1/2 = 2
+example : Dyadic.birthday 7 = 7 := rfl -- birthday 7 = 7
+example : Dyadic.birthday ((-5 : Dyadic) >>> 1) = 4 := rfl -- birthday -2.5 = 4
+example : Dyadic.birthday ((1 : Dyadic) <<< 4) = 16 := rfl -- birthday 16 = 16
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:90]: Nit: I think this looks a bit nicer.
```suggestion
example : Dyadic.birthday ((13 : Dyadic) >>> 2) = 6 := rfl -- birthday 3.25 = 6
example : Dyadic.birthday ((1 : Dyadic) >>> 1) = 2 := rfl  -- birthday 1/2 = 2
example : Dyadic.birthday 7 = 7 := rfl                     -- birthday 7 = 7
example : Dyadic.birthday ((-5 : Dyadic) >>> 1) = 4 := rfl -- birthday -2.5 = 4
example : Dyadic.birthday ((1 : Dyadic) <<< 4) = 16 := rfl -- birthday 16 = 16
```

File: CombinatorialGames/Surreal/Dyadic.lean [hunk 10]
```diff
@@ -129,6 +130,48 @@ theorem le_upper_add_of_den_ge {x y : Dyadic} (h : y.den ≤ x.den) :
     upper x + y ≤ upper (x + y) := by
   simpa [add_comm] using le_upper_add_of_den_le h
 
+theorem max_den_lower_upper {x : Dyadic} (hx : x.den ≠ 1) :
+    max x.lower.den x.upper.den = x.den / 2 := by
+  unfold Dyadic.den at hx ⊢
+  rw [coe_lower, coe_upper]
+  unfold Dyadic.den
+  rw [Rat.sub_def', Rat.den_mkRat, if_neg (by positivity),
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Dyadic.lean:138]: I think you can further extract `den_lower` and `den_upper` lemmas out of this big `rw` chain.

File: CombinatorialGames/Surreal/Dyadic.lean [hunk 11]
```diff
@@ -129,6 +130,48 @@ theorem le_upper_add_of_den_ge {x y : Dyadic} (h : y.den ≤ x.den) :
...
+    exact x.den_mem_powers
+  cases e with
+  | zero => exact (hx hd).elim
+  | succ e =>
+    obtain ⟨l2, hl2⟩ : Even (n - 1).natAbs := by
+      rw [Int.natAbs_even, Int.even_sub_one, Int.not_even_iff_odd, ← hn]
+      exact x.odd_num hx
+    have ⟨u2, hu2⟩ : Even (n + 1).natAbs := by
+      rw [Int.natAbs_even, Int.even_add_one, Int.not_even_iff_odd, ← hn]
+      exact x.odd_num hx
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Dyadic.lean:158]:
```suggestion
    have ⟨l2, hl2⟩ : Even (n - 1).natAbs := by simpa [hn] using x.odd_num hx
    have ⟨u2, hu2⟩ : Even (n + 1).natAbs := by simpa [hn] using x.odd_num hx
```

File: CombinatorialGames/Surreal/Dyadic.lean [hunk 12]
```diff
@@ -129,6 +130,48 @@ theorem le_upper_add_of_den_ge {x y : Dyadic} (h : y.den ≤ x.den) :
...
+    rw [pow_succ, Nat.mul_div_cancel _ (by decide), hl2, hu2,
+      ← Nat.mul_two, ← Nat.mul_two, Nat.gcd_mul_right, Nat.gcd_mul_right,
+      Nat.mul_div_mul_right _ _ (by decide), Nat.mul_div_mul_right _ _ (by decide)]
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Dyadic.lean:161]: `decide` seems like overkill to me here.
```suggestion
    rw [pow_succ, Nat.mul_div_cancel _ two_pos, hl2, hu2,
      ← Nat.mul_two, ← Nat.mul_two, Nat.gcd_mul_right, Nat.gcd_mul_right,
      Nat.mul_div_mul_right _ _ two_pos, Nat.mul_div_mul_right _ _ two_pos]
```

File: CombinatorialGames/Surreal/Dyadic.lean [hunk 13]
```diff
@@ -129,6 +130,48 @@ theorem le_upper_add_of_den_ge {x y : Dyadic} (h : y.den ≤ x.den) :
...
+  rw [coe_lower, coe_upper]
+  unfold Dyadic.den
+  rw [Rat.sub_def', Rat.den_mkRat, if_neg (by positivity),
+    Rat.add_def', Rat.den_mkRat, if_neg (by positivity),
+    Rat.den_inv_of_ne_zero (by positivity), Rat.num_inv, Rat.num_natCast,
+    Int.natAbs_natCast, Rat.den_natCast, Int.sign_natCast_of_ne_zero (by positivity),
+    Nat.cast_one, Int.one_mul, ← Int.sub_mul, ← Int.add_mul,
+    Int.natAbs_mul, Int.natAbs_mul, Int.natAbs_natCast,
+    Nat.gcd_mul_right, Nat.mul_div_mul_right _ _ (by positivity),
+    Nat.gcd_mul_right, Nat.mul_div_mul_right _ _ (by positivity)]
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Dyadic.lean:145]: Likewise, I don't think it hurts to be explicit here.
```suggestion
    Int.natAbs_natCast, Rat.den_natCast, Int.sign_natCast_of_ne_zero x.den_ne_zero,
    Nat.cast_one, Int.one_mul, ← Int.sub_mul, ← Int.add_mul,
    Int.natAbs_mul, Int.natAbs_mul, Int.natAbs_natCast,
    Nat.gcd_mul_right, Nat.mul_div_mul_right _ _ x.den_pos,
    Nat.gcd_mul_right, Nat.mul_div_mul_right _ _ x.den_pos]
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 14]
```diff
@@ -37,12 +57,170 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+
+theorem Dyadic.natAbs_num_div_den_lower_eq_natAbs_num_div_den_of_den_lower_ne_one {x : Dyadic}
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:92]: This name is already a mouthful... I think we can afford a bit of imprecision.
```suggestion
theorem Dyadic.natAbs_num_div_den_lower_eq_natAbs_num_div_den {x : Dyadic}
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 15]
```diff
@@ -37,12 +57,170 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+    (hxl : x.lower.den ≠ 1) : x.lower.num.natAbs / x.lower.den = x.num.natAbs / x.den := by
+  have hcd : x.num / x.den = x.toRat := x.toRat.num_div_den
+  have hd : x.den ≠ 1 := by
+    intro hd
+    apply hxl
+    rw [x.lower_eq_of_den_eq_one hd, ← Int.cast_one, ← Int.cast_sub, Dyadic.den_intCast]
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:98]: Alternatively:
```suggestion
  have hd : x.den ≠ 1 := by
    contrapose! hxl
    rw [x.lower_eq_of_den_eq_one hxl, ← Int.cast_one, ← Int.cast_sub, Dyadic.den_intCast]
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 16]
```diff
@@ -37,12 +57,170 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+  have hle : x.lower.toRat = Int.cast (x.num - 1) / x.den := by
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:99]: You can also do this (but yours is more explicit, so whichever you prefer).
```suggestion
  have hle : x.lower.toRat = (x.num - 1 :) / x.den := by
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 17]
```diff
@@ -37,12 +57,170 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+    rw [Dyadic.num, Dyadic.den, x.coe_lower, ← hcd, ← one_div, ← sub_div,
+      ← Int.cast_one, ← Int.cast_sub, ← Rat.mkRat_eq_div, Rat.num_mkRat, Rat.den_mkRat,
+      if_neg x.den_ne_zero, if_neg x.den_ne_zero,
+      Int.natAbs_ediv_of_dvd (Int.natCast_dvd.2 (Nat.gcd_dvd_right _ _)),
+      Int.natAbs_natCast, ← Nat.mul_div_mul_right _ _ (Nat.gcd_pos_of_pos_left _ x.den_pos),
+      Nat.div_mul_cancel (Nat.gcd_dvd_left _ _), Nat.div_mul_cancel (Nat.gcd_dvd_right _ _)]
+  rw [hlnd]
+  apply le_antisymm
+  · rw [← not_lt, Nat.div_lt_div_iff_exists]
+    simp_rw [not_exists, not_and]
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:111]:
```suggestion
    push Not
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 18]
```diff
@@ -37,12 +57,170 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+    intro k hkl hkr
+    cases le_antisymm (Nat.add_one_le_of_lt hkl) (hkr.trans (Int.natAbs_sub_le _ 1))
+    rw [le_antisymm hkr (Int.natAbs_sub_le _ 1), ← Int.natCast_dvd]
+    contrapose! hxl
+    obtain ⟨e, he⟩ := hxl
+    rw [he, Int.cast_mul, Int.cast_natCast, mul_div_cancel_left₀ _ (by positivity)] at hle
+    rw [Dyadic.den, hle, Rat.den_intCast]
+  · rw [← not_lt, Nat.div_lt_div_iff_exists]
+    simp_rw [not_exists, not_and]
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:120]:
```suggestion
    push Not
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 19]
```diff
@@ -37,12 +57,170 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+  have hnd := x.max_den_lower_upper hx
+  have hnd0 : (x.precision.getD 0).toNat ≠ 0 := by
+    apply_fun (2 ^ ·)
+    rwa [← Dyadic.den_eq_two_pow_toNat_precision]
+  simp_rw [Dyadic.den_eq_two_pow_toNat_precision] at hnd
+  rw [← (pow_right_monotone one_le_two).map_max,
+    ← Nat.pow_sub_one (by decide) hnd0, pow_right_inj₀ Nat.two_pos (by decide),
+    eq_comm, Nat.sub_eq_iff_eq_add (Nat.one_le_iff_ne_zero.2 hnd0)] at hnd
+  rw [birthday_of_den_ne_one hx, Option.get_eq_getD, hnd, Nat.add_one_inj, Nat.add_right_comm]
+  have hk (c : Int) (d : Nat) : (Rat.num (c / d)).natAbs / Rat.den (c / d) = c.natAbs / d := by
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:150]:
```suggestion
  have hk (c : ℤ) (d : ℕ) : (Rat.num (c / d)).natAbs / Rat.den (c / d) = c.natAbs / d := by
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 20]
```diff
@@ -37,12 +57,170 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+theorem Dyadic.max_birthday_lower_birthday_upper_add_one_of_den_ne_one {x : Dyadic}
+    (hx : x.den ≠ 1) : max x.lower.birthday x.upper.birthday + 1 = x.birthday := by
+  have hcd : x.num / x.den = x.toRat := x.toRat.num_div_den
+  have hnd := x.max_den_lower_upper hx
+  have hnd0 : (x.precision.getD 0).toNat ≠ 0 := by
+    apply_fun (2 ^ ·)
+    rwa [← Dyadic.den_eq_two_pow_toNat_precision]
+  simp_rw [Dyadic.den_eq_two_pow_toNat_precision] at hnd
+  rw [← (pow_right_monotone one_le_two).map_max,
+    ← Nat.pow_sub_one (by decide) hnd0, pow_right_inj₀ Nat.two_pos (by decide),
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:147]:
```suggestion
    ← Nat.pow_sub_one two_ne_zero hnd0, pow_right_inj₀ Nat.two_pos (by decide),
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 21]
```diff
@@ -37,12 +57,170 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+        if_neg hd0.ne', if_neg hd0.ne',
+        Int.natAbs_ediv_of_dvd (Int.natCast_dvd.2 (Nat.gcd_dvd_right _ _)),
+        Int.natAbs_natCast, ← Nat.mul_div_mul_right _ _ (Nat.gcd_pos_of_pos_left c.natAbs hd0),
+        Nat.div_mul_cancel (Nat.gcd_dvd_left _ _), Nat.div_mul_cancel (Nat.gcd_dvd_right _ _)]
+  have hle : x.lower.toRat = Int.cast (x.num - 1) / x.den := by
+    rw [x.coe_lower, ← hcd, ← one_div, ← sub_div, ← Rat.intCast_one, ← Int.cast_sub]
+  have hue : x.upper.toRat = Int.cast (x.num + 1) / x.den := by
+    rw [x.coe_upper, ← hcd, ← one_div, ← add_div, ← Rat.intCast_one, ← Int.cast_add]
+  have hlnd (hl : x.lower.den = 1) : x.lower.num.natAbs = (x.num - 1).natAbs / x.den := by
+    have hlnd := congr((x.lower.num / $hl : Rat))
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:163]:
```suggestion
    have hlnd := congr((x.lower.num / $hl : ℚ))
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 22]
```diff
@@ -37,12 +57,170 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+  · rw [birthday_of_den_eq_one hl, birthday_of_den_eq_one hr]
+    rw [Dyadic.den_eq_two_pow_toNat_precision, Nat.pow_eq_one, or_iff_right (by decide)] at hl hr
+    rw [hl, hr, max_self, zero_add, ← Nat.pow_right_inj Nat.one_lt_two, Nat.pow_one,
+      ← Dyadic.den_eq_two_pow_toNat_precision] at hnd
+    rw [hnd, hl, hr, max_self, zero_add]
+    obtain ⟨c, hc⟩ := x.odd_num hx
+    unfold Dyadic.num
+    rw [hle, hue, hnd, hc, Int.add_sub_cancel, Int.add_assoc, ← two_mul, ← Int.mul_add,
+      Rat.intCast_mul, Rat.intCast_mul, Rat.intCast_ofNat, Rat.natCast_ofNat,
+      mul_div_cancel_left₀ _ (by decide), mul_div_cancel_left₀ _ (by decide),
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:184]:
```suggestion
      mul_div_cancel_left₀ _ two_ne_zero, mul_div_cancel_left₀ _ two_ne_zero,
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 23]
```diff
@@ -37,12 +57,170 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+    rw [Int.natAbs_one, Nat.succ_div, Nat.add_le_add_iff_left]
+    apply ite_le_sup
+  · rw [birthday_of_den_ne_one hl, birthday_of_den_ne_one hr,
+      Dyadic.natAbs_num_div_den_lower_eq_natAbs_num_div_den_of_den_lower_ne_one hl,
+      Dyadic.natAbs_num_div_den_upper_eq_natAbs_num_div_den_of_den_upper_ne_one hr,
+      Nat.add_max_add_right, Nat.add_max_add_right, Option.get_eq_getD, Option.get_eq_getD]
+
+theorem IGame.birthday_dyadic (x : Dyadic) : IGame.birthday x = x.birthday := by
+  induction hd : x.den using Nat.strongRec generalizing x with | ind d ih
+  cases hd
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:212]:
```suggestion
  subst hd
```

File: CombinatorialGames/Surreal/Birthday/Dyadic.lean [hunk 24]
```diff
@@ -37,12 +57,170 @@ theorem Surreal.birthday_lt_omega0_iff {x : Surreal} :
...
+    apply le_add_of_le_right
+    grw [Int.natAbs_add_le]
+    rw [Int.natAbs_one, Nat.succ_div, Nat.add_le_add_iff_left]
+    apply ite_le_sup
+  · rw [birthday_of_den_ne_one hl, birthday_of_den_ne_one hr,
+      Dyadic.natAbs_num_div_den_lower_eq_natAbs_num_div_den_of_den_lower_ne_one hl,
+      Dyadic.natAbs_num_div_den_upper_eq_natAbs_num_div_den_of_den_upper_ne_one hr,
+      Nat.add_max_add_right, Nat.add_max_add_right, Option.get_eq_getD, Option.get_eq_getD]
+
+theorem IGame.birthday_dyadic (x : Dyadic) : IGame.birthday x = x.birthday := by
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Birthday/Dyadic.lean:210]:
```suggestion
@[simp]
theorem IGame.birthday_dyadic (x : Dyadic) : IGame.birthday x = x.birthday := by
```

**Review by vihdzp — COMMENTED** [review]
I don't have any substantial golfs here. Working with rational numbers just kind of sucks, doesn't it?

**Review by vihdzp — APPROVED** [review]
I think we can merge. These proofs are really intimidating but we can try to clean them up later maybe.
